US05366989
In 7 ml of dichloromethane was suspended 0.33 g of 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrohydrazide. To the suspension was added 0.12 g of triethylamine. Thereto was dropwise added 0.19 g of 4-fluorobenzoyl chloride at 5°-10° C. The resulting mixture was subjected to reaction at the same temperature for 1 hour. The reaction mixture was introduced into a mixed solvent consisting of 10 ml of dichloromethane and 10 ml of water. The resulting solution was adjusted to pH 1.0 with 6N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: chloroform) to obtain 0.25 g of N'-(4-fluorobenzoyl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrohydrazide.

reactant | 3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrohydrazide | 0.33 g | FC1=C(C=CC(=C1)F)C(C(C(=O)NN)(F)F)(CN1N=CN=C1)O | C12H11F4N5O2
reactant | triethylamine | 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 0.19 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | N'-(4-fluorobenzoyl)-3-(2,4-difluorophenyl)-2,2-difluoro-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrohydrazide | 0.25 g | FC1=CC=C(C(=O)NNC(C(C(CN2N=CN=C2)(O)C2=C(C=C(C=C2)F)F)(F)F)=O)C=C1 | C19H14F5N5O3
